US07538112B2
Step 9: Ethyl 6-acetyl-2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate
A mixture of ethyl 6-acetyl-8-(benzyloxy)-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate (140 mg, 0.30 mmol) and Pearlman's catalyst (5.0 mg, 20% Pd(OH)2 on carbon) in ethanol (20 mL) was stirred under an atmosphere of hydrogen gas (1 atm) at room temperature overnight. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated under vacuum to provide the titled product.

reactant | ethyl 6-acetyl-8-(benzyloxy)-2-(4-fluorobenzyl)-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | 0.30 mmol, 140 mg | C(C)(=O)C1=C(C(=C2N1CCN(C2=O)CC2=CC=C(C=C2)F)OCC2=CC=CC=C2)C(=O)OCC | C26H25FN2O5
catalyst | Pearlman's catalyst | 5.0 mg | [OH-].[OH-].[Pd+2]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | Ethyl 6-acetyl-2-(4-fluorobenzyl)-8-hydroxy-1-oxo-1,2,3,4-tetrahydropyrrolo[1,2-a]-pyrazine-7-carboxylate | C(C)(=O)C1=C(C(=C2N1CCN(C2=O)CC2=CC=C(C=C2)F)O)C(=O)OCC | C19H19FN2O5
